US07781483B2
6-methoxy-2,2-dimethyl-7-nitro-2H-1-benzopyran
A mixed solution of acetic acid (6.2 mL) and acetic anhydride (6.2 mL) containing 6-methoxy-2,2-dimethyl-2H-1-benzopyran (3.1 g, 16.4 mmol) was cooled with ice, nitric acid (1.37 mL, 18.0 mmol) was added dropwise and then the mixture was stirred at 0° C. for 1 hour. Upon the completion of the reaction, an aqueous solution of 1 mol/L sodium hydroxide was added to the reaction solution, the resulting solution was extracted with ethyl acetate (150 mL). The organic phase was washed twice with 1 mol/L sodium hydroxide aqueous solution and once with saturated sodium chloride solution. Then, the organic phase was dried over anhydrous magnesium sulfate. After distilling off the solvent, the residue was purified by column chromatography (hexane/ethyl acetate=6/1) and the aimed product was obtained as yellow crystal (yield: 79%).

reactant | acetic anhydride | 6.2 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 6-methoxy-2,2-dimethyl-2H-1-benzopyran | 16.4 mmol, 3.1 g | COC=1C=CC2=C(C=CC(O2)(C)C)C1 | C12H14O2
reactant | nitric acid | 18.0 mmol, 1.37 mL | [N+](=O)(O)[O-] | HNO3
reactant | sodium hydroxide | 1 mol/L | [OH-].[Na+]
solvent | acetic acid | 6.2 mL | C(C)(=O)O | C2H4O2
product | 6-methoxy-2,2-dimethyl-7-nitro-2H-1-benzopyran | COC=1C(=CC2=C(C=CC(O2)(C)C)C1)[N+](=O)[O-] | C12H13NO4
